US04017505
n-Octylthiocarbonyl chloride
180 G. (1.23 moles) of 1-octanethiol and 97.2 g. (1.23 moles) of pyridine are added dropwise over one hour to 2000 g. of 12.5% phosgene in benzene maintaining the temperature at from 10° to 12° C with an ice water bath. The reaction mixture is allowed to warm to room temperature and stirred for 21 hours. The reaction mixture is filtered, washed with anhydrous benzene, concentrated to a small volume, filtered and concentrated again to an oil which infrared spectroscopy indicates is pure n-octylthiocarbonyl chloride.

reactant | 1-octanethiol | 1.23 moles | C(CCCCCCC)S | C8H18S
reactant | pyridine | 1.23 moles | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | benzene | C1=CC=CC=C1 | C6H6
product | n-Octylthiocarbonyl chloride | C(CCCCCCC)C(=S)Cl | C9H17ClS
